US07452993B2
A mixture of {3-[3-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-morpholin-4-yl-methanone (33 mg, 66% pure, 38 μmol), 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichlormethane adduct (5 mg, 6 μmol) and 3-trifluoromethylphenylboronic acid (14 mg, 92 μmol) in acetonitrile (2 mL) and 2 M solution of sodium carbonate (1 mL) was irradiated in a Personal Chemistry Optimizer at 175° C. for 20 min. The crude reaction mixture was diluted with saturated aqueous solution of sodium bromide (1 mL) and ethyl acetate (4 mL) and the organic phase separated, adsorbed onto silica and purified by flash silica gel chromatography using a gradient of ethyl acetate in hexanes to afford {3-[3-(2-methoxy-pyridin-3-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-morpholin-4-yl-methanone (24 mg, 116% yield) as an off-white residue. MS: m/z 568 [MNa+], 546 [MH+], 428 [MH+-(Me3Si(CH2)2O)]

reactant | {3-[3-iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-morpholin-4-yl-methanone | 38 μmol, 33 mg | IC1=NN(C2=NC=C(C=C21)C=2C=C(C=CC2)C(=O)N2CCOCC2)COCC[Si](C)(C)C | C23H29IN4O3Si
reactant | 3-trifluoromethylphenylboronic acid | 92 μmol, 14 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | sodium carbonate | 1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | sodium bromide | 1 mL | [Br-].[Na+]
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | {3-[3-(2-methoxy-pyridin-3-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-morpholin-4-yl-methanone | 24 mg, 116% yield | COC1=NC=CC=C1C1=NN(C2=NC=C(C=C21)C=2C=C(C=CC2)C(=O)N2CCOCC2)COCC[Si](C)(C)C | C29H35N5O4Si
